US05189054
Preparation of 3-[(Phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloroindole
Mix 3-amino-2-carbethoxy-4,6-dichloroindole (3.31 g, and anhydrous pyridine (50 mL). Add, by dropwise addition, phenylsulfonyl chloride (2.35 g, 13.33 mmol). Stir for 48 hours at room temperature. Pour into 1N hydrochloric acid (500 mL), extract with ethyl acetate and dry (MgSO4). Evaporate the solvent in vacuo and recrystallize (ethyl acetate/hexane) to give the title compound (3.15 g, 63%); mp 245°-7° C.

reactant | 3-amino-2-carbethoxy-4,6-dichloroindole | NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
reactant | phenylsulfonyl chloride | 13.33 mmol, 2.35 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | 1N, 500 mL | Cl | ClH
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 3-[(Phenylsulfonyl)amino]-2-carbethoxy-4,6-dichloroindole | 3.15 g, 63% | C1(=CC=CC=C1)S(=O)(=O)NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C17H14Cl2N2O4S
